US07425551B2
c) N—[(S)-5-(2-Methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-malonamic acid ethyl ester
Using (S)-7-Amino-5-(2-methoxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one and malonic acid monoethyl ester, the title compound was prepared in the same manner as described for example 1c. Colorless, viscous oil (>98%). MS: m/e=397(M+H+).

reactant | (S)-7-Amino-5-(2-methoxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)CCOC)C=CC=C3)C=CC=C2 | C17H18N2O2
reactant | malonic acid monoethyl ester | C(C)OC(CC(=O)O)=O | C5H8O4
product | N—[(S)-5-(2-Methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-malonamic acid ethyl ester | C(C)OC(CC(=O)N[C@H]1C2=C(C3=C(N(C1=O)CCOC)C=CC=C3)C=CC=C2)=O | C22H24N2O5
